US07368579B2
Nitronium tetrafluoroborate (398 mg) was dissolved in nitromethane (5 ml), next 2-chloroimidazole (205 mg) was added, the reaction mixture was stirred at a room temperature for 1 hour. The reaction mixture was neutralized with an aqueous solution of sodium hydrogencarbonate, then was turned back to acidic by adding hydrochloric acid, the separated 2-chloro-4-nitroimidazole (137 mg) was collected by filtration. The filtrate was extracted with ethyl acetate-methanol, the solid matter obtained from the organic layer was triturated with diethyl ether, 2-chloro-4-nitroimidazole (103 mg) was obtained. The sum of 240 mg (yield: 81.3%) of 2-chloro-4-nitroimidazole was obtained as colorless solid product.

reactant | Nitronium tetrafluoroborate | 398 mg | F[B-](F)(F)F.O=[N+]=O
reactant | 2-chloroimidazole | 205 mg | ClC=1NC=CN1 | C3H3ClN2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
product | 2-chloro-4-nitroimidazole | 103 mg | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
